US07632838B2
(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-1-{[3-(1-isopropylpiperidin-4-yl)phenyl]sulfonyl}-2-methylpiperazine
Prepared according to the synthesis of Example 29EZ in Step 4D from (2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methyl-1-[(3-piperidin-4-ylphenyl)sulfonyl]piperazine (81 mg, 0.155 mmol) and acetone (23 μL, 0.31 mmol) as a sticky oil (75 mg, 92%). It was redissolved in Et2O and acidified with 1N HCl in Et2O and triturated with hexanes/Et2O to give the titled compound as a white solid. HRMS: calcd for C26H33F4N3O2S+H+, 528.23023. found (ESI-FTMS, [M+H]1+), 528.22834.

reactant | (2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methyl-1-[(3-piperidin-4-ylphenyl)sulfonyl]piperazine | 0.155 mmol, 81 mg | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC(=CC=C1)C1CCNCC1)C)C(F)(F)F | C23H27F4N3O2S
reactant | acetone | 0.31 mmol, 23 μL, 75 mg | CC(=O)C | C3H6O
reactant | HCl | 1N | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | (2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-1-{[3-(1-isopropylpiperidin-4-yl)phenyl]sulfonyl}-2-methylpiperazine | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC(=CC=C1)C1CCN(CC1)C(C)C)C)C(F)(F)F | C26H33F4N3O2S
